US07592373B2
3-(4′-chlorobiphenyl-4-yl)propynoic acid-[4-(3,5-dimethylpiperidin-1-ylmethyl)phenyl]amide
A solution of 0.26 g (1 mmol) of (4′-chlorobiphenyl-4-yl)propynoic acid and 0.12 mL (1.1 mmol) of N-methylmorpholine in 20 mL of absolute THF is combined with 0.14 mL (1.1 mmol) of isobutyl chloroformate at −15° C. and stirred for ten minutes. Then 0.240 mg (1.1 mmol) of 4-[(3,5-dimethylcyclohexylamino)methyl]phenylamine dissolved in 7 mL of THF is added and the reaction mixture is stirred for 16 hours. The reaction mixture is evaporated down. The purification is carried out by column chromatography on silica gel (dichloromethane/methanol=90/10). Yield: 300 mg (66% of theory); melting point: 209° C.-214° C.; C29H29ClN2O (M=457.01); calc.: molecular ion peak (M+H)+: 457/459 (Cl); found: molecular ion peak (M+H)+: 457/459 (Cl); Rf value: 0.60 (silica gel, dichloromethane/methanol (90:10)).

reactant | (4′-chlorobiphenyl-4-yl)propynoic acid | 1 mmol, 0.26 g | ClC1=CC=C(C=C1)C1=CC=C(C=C1)C#CC(=O)O | C15H9ClO2
reactant | N-methylmorpholine | 1.1 mmol, 0.12 mL | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 1.1 mmol, 0.14 mL | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 4-[(3,5-dimethylcyclohexylamino)methyl]phenylamine | 1.1 mmol, 0.240 mg | CC1CC(CC(C1)C)NCC1=CC=C(C=C1)N | C15H24N2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 7 mL | C1CCOC1 | C4H8O
product | 3-(4′-chlorobiphenyl-4-yl)propynoic acid-[4-(3,5-dimethylpiperidin-1-ylmethyl)phenyl]amide | CC1CN(CC(C1)C)CC1=CC=C(C=C1)NC(C#CC1=CC=C(C=C1)C1=CC=C(C=C1)Cl)=O | C29H29ClN2O
